US07465721B2
21.1) 10H-Phenothiazin-2-ol
A mixture of 25 g (109 mmol) of 2-methoxyphenothiazine and 60 g (4.8 eq.) of pyridinium chloride is heated at 170° C. for 15 hours. After cooling down to a temperature of approximately 80° C., the brown solution obtained is diluted with 200 ml of ethyl acetate. Stirring is maintained for 30 minutes before pouring the reaction mixture into 200 ml of water. After stirring and decantation, the organic phase is dried over sodium sulphate and concentrated to dryness, under vacuum. The greenish solid obtained is recrystallized from 700 ml of boiling toluene. An insoluble solid is eliminated by filtration, the filtrate crystallizes spontaneously overnight. The crystals are collected by filtration and rinsed using isopentane. After drying, 12.43 g of a grey solid is obtained with a yield of 53%. Melting point: 207-208° C.

reactant | 2-methoxyphenothiazine | 109 mmol, 25 g | COC1=CC=2NC3=CC=CC=C3SC2C=C1 | C13H11NOS
reactant | pyridinium chloride | 60 g, 4.8 eq. | [Cl-].[NH+]1=CC=CC=C1
reactant | water | 200 ml | O | H2O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 10H-Phenothiazin-2-ol | 12.43 g, yield of 53% | C1=C(C=CC=2SC3=CC=CC=C3NC12)O | C12H9NOS
